* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT EMXAI_SPARAM_MODEL p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0009095160496526026
Fd1_1 0 s1 V1 -0.04547580248263013
Gr1_1_1 0 s1 x1_a1 0 3319701171.3343306
Gr2_re_1_1 0 s1 x2_re_a1 0 592.2367487522688
Gr2_im_1_1 0 s1 x2_im_a1 0 317.39575186693827
Gr3_1_1 0 s1 x3_a1 0 -10689.84116733439
Gr4_1_1 0 s1 x4_a1 0 -4956948.461200275
Gr5_1_1 0 s1 x5_a1 0 19633.267196727542
Gr6_1_1 0 s1 x6_a1 0 -157461.4649779738
Gr7_1_1 0 s1 x7_a1 0 -9572.455161971991
Gd1_2 0 s1 p2 0 0.0059438659438493194
Fd1_2 0 s1 V2 0.29719329719246596
Gr1_1_2 0 s1 x1_a2 0 -944969795.1863693
Gr2_re_1_2 0 s1 x2_re_a2 0 -2497.2463767403187
Gr2_im_1_2 0 s1 x2_im_a2 0 893.7320587932468
Gr3_1_2 0 s1 x3_a2 0 5092.942436166062
Gr4_1_2 0 s1 x4_a2 0 4965130.695563295
Gr5_1_2 0 s1 x5_a2 0 -8349.991643247697
Gr6_1_2 0 s1 x6_a2 0 153525.42940262004
Gr7_1_2 0 s1 x7_a2 0 2215.2730264410206
Gd1_3 0 s1 p3 0 0.002613352881976845
Fd1_3 0 s1 V3 0.13066764409884224
Gr1_1_3 0 s1 x1_a3 0 -419352177.5920771
Gr2_re_1_3 0 s1 x2_re_a3 0 -257.1146529639031
Gr2_im_1_3 0 s1 x2_im_a3 0 -270.26684695180313
Gr3_1_3 0 s1 x3_a3 0 26009.30318525679
Gr4_1_3 0 s1 x4_a3 0 4949890.903117802
Gr5_1_3 0 s1 x5_a3 0 1800.1139273606711
Gr6_1_3 0 s1 x6_a3 0 -147816.96817903768
Gr7_1_3 0 s1 x7_a3 0 -775.893018029489
Gd1_4 0 s1 p4 0 0.001046378437840799
Fd1_4 0 s1 V4 0.05231892189203995
Gr1_1_4 0 s1 x1_a4 0 -158821987.7677942
Gr2_re_1_4 0 s1 x2_re_a4 0 120.09089091396076
Gr2_im_1_4 0 s1 x2_im_a4 0 71.29133281028034
Gr3_1_4 0 s1 x3_a4 0 -14974.588274168293
Gr4_1_4 0 s1 x4_a4 0 -4959405.696187603
Gr5_1_4 0 s1 x5_a4 0 5003.506580407191
Gr6_1_4 0 s1 x6_a4 0 145525.32843387657
Gr7_1_4 0 s1 x7_a4 0 -3733.6176745727416
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 8.892922511265081e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.758128008779379e-08
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 171129636.43730524
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -171129636.43730524
Rp2_im_im_a1 0 x2_im_a1 1.758128008779379e-08
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.6436379717730808e-08
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.8429086921176928e-08
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.0266799271384621e-06
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 9.602886559919927e-07
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.062363160068403e-06
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0059438659438493194
Fd2_1 0 s2 V1 0.29719329719246596
Gr1_2_1 0 s2 x1_a1 0 -944969795.1863693
Gr2_re_2_1 0 s2 x2_re_a1 0 -2497.2463767403187
Gr2_im_2_1 0 s2 x2_im_a1 0 893.7320587932468
Gr3_2_1 0 s2 x3_a1 0 5092.942436166062
Gr4_2_1 0 s2 x4_a1 0 4965130.695563295
Gr5_2_1 0 s2 x5_a1 0 -8349.991643247697
Gr6_2_1 0 s2 x6_a1 0 153525.42940262004
Gr7_2_1 0 s2 x7_a1 0 2215.2730264410206
Gd2_2 0 s2 p2 0 -0.0010797499436727774
Fd2_2 0 s2 V2 -0.05398749718363886
Gr1_2_2 0 s2 x1_a2 0 3347002137.8757205
Gr2_re_2_2 0 s2 x2_re_a2 0 606.0096705505002
Gr2_im_2_2 0 s2 x2_im_a2 0 363.2336094041081
Gr3_2_2 0 s2 x3_a2 0 -4640.642945284903
Gr4_2_2 0 s2 x4_a2 0 -4963260.2230353225
Gr5_2_2 0 s2 x5_a2 0 20087.1521497232
Gr6_2_2 0 s2 x6_a2 0 -157622.9485786721
Gr7_2_2 0 s2 x7_a2 0 -9866.151554205337
Gd2_3 0 s2 p3 0 0.0010383300794751112
Fd2_3 0 s2 V3 0.05191650397375556
Gr1_2_3 0 s2 x1_a3 0 -157459707.72940353
Gr2_re_2_3 0 s2 x2_re_a3 0 -226.9195907477175
Gr2_im_2_3 0 s2 x2_im_a3 0 -26.97070679597328
Gr3_2_3 0 s2 x3_a3 0 -34643.868786522624
Gr4_2_3 0 s2 x4_a3 0 -4940141.756007089
Gr5_2_3 0 s2 x5_a3 0 262245.51646808436
Gr6_2_3 0 s2 x6_a3 0 54557.09992366345
Gr7_2_3 0 s2 x7_a3 0 -170389.22206766877
Gd2_4 0 s2 p4 0 0.0018184239468860158
Fd2_4 0 s2 V4 0.09092119734430079
Gr1_2_4 0 s2 x1_a4 0 -293227609.8255425
Gr2_re_2_4 0 s2 x2_re_a4 0 -300.8526281405906
Gr2_im_2_4 0 s2 x2_im_a4 0 77.92455448450836
Gr3_2_4 0 s2 x3_a4 0 24918.83222032528
Gr4_2_4 0 s2 x4_a4 0 4952123.970561054
Gr5_2_4 0 s2 x5_a4 0 1165.9468373714374
Gr6_2_4 0 s2 x6_a4 0 -147681.4138564089
Gr7_2_4 0 s2 x7_a4 0 -286.0101578648938
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 8.892922511265081e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.758128008779379e-08
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 171129636.43730524
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -171129636.43730524
Rp2_im_im_a2 0 x2_im_a2 1.758128008779379e-08
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.6436379717730808e-08
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.8429086921176928e-08
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.0266799271384621e-06
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 9.602886559919927e-07
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.062363160068403e-06
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 0.002613352881976845
Fd3_1 0 s3 V1 0.13066764409884224
Gr1_3_1 0 s3 x1_a1 0 -419352177.5920771
Gr2_re_3_1 0 s3 x2_re_a1 0 -257.1146529639031
Gr2_im_3_1 0 s3 x2_im_a1 0 -270.26684695180313
Gr3_3_1 0 s3 x3_a1 0 26009.30318525679
Gr4_3_1 0 s3 x4_a1 0 4949890.903117802
Gr5_3_1 0 s3 x5_a1 0 1800.1139273606711
Gr6_3_1 0 s3 x6_a1 0 -147816.96817903768
Gr7_3_1 0 s3 x7_a1 0 -775.893018029489
Gd3_2 0 s3 p2 0 0.0010383300794751112
Fd3_2 0 s3 V2 0.05191650397375556
Gr1_3_2 0 s3 x1_a2 0 -157459707.72940353
Gr2_re_3_2 0 s3 x2_re_a2 0 -226.9195907477175
Gr2_im_3_2 0 s3 x2_im_a2 0 -26.97070679597328
Gr3_3_2 0 s3 x3_a2 0 -34643.868786522624
Gr4_3_2 0 s3 x4_a2 0 -4940141.756007089
Gr5_3_2 0 s3 x5_a2 0 262245.51646808436
Gr6_3_2 0 s3 x6_a2 0 54557.09992366345
Gr7_3_2 0 s3 x7_a2 0 -170389.22206766877
Gd3_3 0 s3 p3 0 -0.000880322105650989
Fd3_3 0 s3 V3 -0.04401610528254945
Gr1_3_3 0 s3 x1_a3 0 3315067417.401548
Gr2_re_3_3 0 s3 x2_re_a3 0 559.1127132020478
Gr2_im_3_3 0 s3 x2_im_a3 0 411.6508899610608
Gr3_3_3 0 s3 x3_a3 0 -10961.844903508503
Gr4_3_3 0 s3 x4_a3 0 -4956836.902689912
Gr5_3_3 0 s3 x5_a3 0 18745.048774878123
Gr6_3_3 0 s3 x6_a3 0 -157102.48363489017
Gr7_3_3 0 s3 x7_a3 0 -9034.324753854742
Gd3_4 0 s3 p4 0 0.005997305742071564
Fd3_4 0 s3 V4 0.2998652871035782
Gr1_3_4 0 s3 x1_a4 0 -953807000.4434788
Gr2_re_3_4 0 s3 x2_re_a4 0 -89.69676606316052
Gr2_im_3_4 0 s3 x2_im_a4 0 184.74603401843194
Gr3_3_4 0 s3 x3_a4 0 12595.516696559973
Gr4_3_4 0 s3 x4_a4 0 4958792.777049927
Gr5_3_4 0 s3 x5_a4 0 -14737.054990056458
Gr6_3_4 0 s3 x6_a4 0 155716.50093552354
Gr7_3_4 0 s3 x7_a4 0 6411.315225216581
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 8.892922511265081e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 1.758128008779379e-08
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 171129636.43730524
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -171129636.43730524
Rp2_im_im_a3 0 x2_im_a3 1.758128008779379e-08
Cx3_a3 x3_a3 0 1.0
Gx3_a3 0 x3_a3 p3 0 0.07071067811865475
Fx3_a3 0 x3_a3 V3 3.5355339059327378
Rp3_a3 0 x3_a3 2.6436379717730808e-08
Cx4_a3 x4_a3 0 1.0
Gx4_a3 0 x4_a3 p3 0 0.07071067811865475
Fx4_a3 0 x4_a3 V3 3.5355339059327378
Rp4_a3 0 x4_a3 2.8429086921176928e-08
Cx5_a3 x5_a3 0 1.0
Gx5_a3 0 x5_a3 p3 0 0.07071067811865475
Fx5_a3 0 x5_a3 V3 3.5355339059327378
Rp5_a3 0 x5_a3 1.0266799271384621e-06
Cx6_a3 x6_a3 0 1.0
Gx6_a3 0 x6_a3 p3 0 0.07071067811865475
Fx6_a3 0 x6_a3 V3 3.5355339059327378
Rp6_a3 0 x6_a3 9.602886559919927e-07
Cx7_a3 x7_a3 0 1.0
Gx7_a3 0 x7_a3 p3 0 0.07071067811865475
Fx7_a3 0 x7_a3 V3 3.5355339059327378
Rp7_a3 0 x7_a3 1.062363160068403e-06
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 0.001046378437840799
Fd4_1 0 s4 V1 0.05231892189203995
Gr1_4_1 0 s4 x1_a1 0 -158821987.7677942
Gr2_re_4_1 0 s4 x2_re_a1 0 120.09089091396076
Gr2_im_4_1 0 s4 x2_im_a1 0 71.29133281028034
Gr3_4_1 0 s4 x3_a1 0 -14974.588274168293
Gr4_4_1 0 s4 x4_a1 0 -4959405.696187603
Gr5_4_1 0 s4 x5_a1 0 5003.506580407191
Gr6_4_1 0 s4 x6_a1 0 145525.32843387657
Gr7_4_1 0 s4 x7_a1 0 -3733.6176745727416
Gd4_2 0 s4 p2 0 0.0018184239468860158
Fd4_2 0 s4 V2 0.09092119734430079
Gr1_4_2 0 s4 x1_a2 0 -293227609.8255425
Gr2_re_4_2 0 s4 x2_re_a2 0 -300.8526281405906
Gr2_im_4_2 0 s4 x2_im_a2 0 77.92455448450836
Gr3_4_2 0 s4 x3_a2 0 24918.83222032528
Gr4_4_2 0 s4 x4_a2 0 4952123.970561054
Gr5_4_2 0 s4 x5_a2 0 1165.9468373714374
Gr6_4_2 0 s4 x6_a2 0 -147681.4138564089
Gr7_4_2 0 s4 x7_a2 0 -286.0101578648938
Gd4_3 0 s4 p3 0 0.005997305742071564
Fd4_3 0 s4 V3 0.2998652871035782
Gr1_4_3 0 s4 x1_a3 0 -953807000.4434788
Gr2_re_4_3 0 s4 x2_re_a3 0 -89.69676606316052
Gr2_im_4_3 0 s4 x2_im_a3 0 184.74603401843194
Gr3_4_3 0 s4 x3_a3 0 12595.516696559973
Gr4_4_3 0 s4 x4_a3 0 4958792.777049927
Gr5_4_3 0 s4 x5_a3 0 -14737.054990056458
Gr6_4_3 0 s4 x6_a3 0 155716.50093552354
Gr7_4_3 0 s4 x7_a3 0 6411.315225216581
Gd4_4 0 s4 p4 0 -0.0011333200312754125
Fd4_4 0 s4 V4 -0.05666600156377063
Gr1_4_4 0 s4 x1_a4 0 3355619340.775529
Gr2_re_4_4 0 s4 x2_re_a4 0 201.77845219527995
Gr2_im_4_4 0 s4 x2_im_a4 0 568.9322592919593
Gr3_4_4 0 s4 x3_a4 0 -6773.4381747627585
Gr4_4_4 0 s4 x4_a4 0 -4961610.615954912
Gr5_4_4 0 s4 x5_a4 0 -3045.505001482628
Gr6_4_4 0 s4 x6_a4 0 -149437.1911417933
Gr7_4_4 0 s4 x7_a4 0 5116.404726071967
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 8.892922511265081e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 1.758128008779379e-08
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 171129636.43730524
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -171129636.43730524
Rp2_im_im_a4 0 x2_im_a4 1.758128008779379e-08
Cx3_a4 x3_a4 0 1.0
Gx3_a4 0 x3_a4 p4 0 0.07071067811865475
Fx3_a4 0 x3_a4 V4 3.5355339059327378
Rp3_a4 0 x3_a4 2.6436379717730808e-08
Cx4_a4 x4_a4 0 1.0
Gx4_a4 0 x4_a4 p4 0 0.07071067811865475
Fx4_a4 0 x4_a4 V4 3.5355339059327378
Rp4_a4 0 x4_a4 2.8429086921176928e-08
Cx5_a4 x5_a4 0 1.0
Gx5_a4 0 x5_a4 p4 0 0.07071067811865475
Fx5_a4 0 x5_a4 V4 3.5355339059327378
Rp5_a4 0 x5_a4 1.0266799271384621e-06
Cx6_a4 x6_a4 0 1.0
Gx6_a4 0 x6_a4 p4 0 0.07071067811865475
Fx6_a4 0 x6_a4 V4 3.5355339059327378
Rp6_a4 0 x6_a4 9.602886559919927e-07
Cx7_a4 x7_a4 0 1.0
Gx7_a4 0 x7_a4 p4 0 0.07071067811865475
Fx7_a4 0 x7_a4 V4 3.5355339059327378
Rp7_a4 0 x7_a4 1.062363160068403e-06
.ENDS EMXAI_SPARAM_MODEL
