* Editable PCB B2 passive RLC + filter example
* CMC, LISN and virtual source are attached by the application.
* ---------------- PCB: trace loop inductance (trace + PE return) ----
L1 p1 n1 3.661742e-09
R1 n1 p5 1.000000e-03    ; L_IN
L2 p5 n2 1.433483e-08
R2 n2 p11 1.000000e-03    ; L_IN
L3 p2 n3 3.688895e-09
R3 n3 p6 1.000000e-03    ; N_IN
L4 p6 n4 6.706839e-09
R4 n4 p13 1.000000e-03    ; N_IN
L5 p3 n5 5.785482e-09
R5 n5 p7 1.000000e-03    ; L_OUT
L6 p7 n6 3.233796e-09
R6 n6 p9 1.000000e-03    ; L_OUT
L7 p9 n7 7.197949e-09
R7 n7 p12 1.000000e-03    ; L_OUT
L8 p4 n8 5.760197e-09
R8 n8 p8 1.000000e-03    ; N_OUT
L9 p8 n9 3.209134e-09
R9 n9 p10 1.000000e-03    ; N_OUT
L10 p10 n10 7.181081e-09
R10 n10 p14 1.000000e-03    ; N_OUT

* ---------------- PCB: capacitance to the PE plane ------------------
Cg1 p1 0 8.903449e-13   ; L_IN
Cg2 p2 0 9.141642e-13   ; N_IN
Cg3 p3 0 7.570204e-13   ; L_OUT
Cg4 p4 0 7.611491e-13   ; N_OUT
Cg5 p5 0 8.903449e-13   ; L_IN
Cg6 p6 0 9.141642e-13   ; N_IN
Cg7 p7 0 7.570204e-13   ; L_OUT
Cg8 p8 0 7.611491e-13   ; N_OUT
Cg9 p9 0 7.570204e-13   ; L_OUT
Cg10 p10 0 7.611491e-13   ; N_OUT
Cg11 p11 0 8.903449e-13   ; L_IN
Cg12 p12 0 7.570204e-13   ; L_OUT
Cg13 p13 0 9.141642e-13   ; N_IN
Cg14 p14 0 7.611491e-13   ; N_OUT
* ---------------- PCB: net-to-net coupling --------------------------
Cc1_2 p1 p2 1.315691e-14
Cc1_3 p1 p3 6.728705e-15
Cc1_4 p1 p4 4.033514e-15
Cc2_3 p2 p3 3.856451e-15
Cc2_4 p2 p4 6.796644e-15
Cc3_4 p3 p4 1.250326e-14

* ---------------- filter components ---------------------------------
CX1 p5 nx1 4.700000e-06
RX1 nx1 mx1 0.01
LX1 mx1 p6 1.500000e-08
CX2 p7 nx2 1.500000e-06
RX2 nx2 mx2 0.015
LX2 mx2 p8 1.200000e-08
* common-mode choke: two coupled windings, specified by its CM inductance
